* Created by KLayout
*** My special header ***

* cell tr_1um_ichiken04
* pin P1
* pin P10
* pin P11
* pin P12
* pin P13
* pin P14
* pin P15
* pin P2
* pin P3
* pin P4
* pin P5
* pin P6
* pin P7
* pin P9
* pin VDD
* pin VSS
.SUBCKT tr_1um_ichiken04 P1 P10 P11 P12 P13 P14 P15 P2 P3 P4 P5 P6 P7 P9 VDD VSS
* cell instance $1 r0 *1 -415.1,-564.8
X$1 P9 P6 P7 VSS inverter_EinosukeOkazaki
* cell instance $2 r0 *1 0,0
X$2 P13 P11 P4 P15 P14 P5 VDD P2 P3 P7 P1 P6 P9 P12 P10 VSS OSS_FRAME
* cell instance $3 r0 *1 401.5,-592.1
X$3 P11 P6 P7 VSS inverter_RS_232_C
* cell instance $4 r0 *1 118.7,-692.9
X$4 P10 P6 P7 VSS inverter_NanTarou
* cell instance $29 m90 *1 719.6,561.9
X$29 \$6 P13 \$12 VSS INV_X1
* cell instance $31 r0 *1 -140.2,533.5
X$31 \$6 P3 P2 \$12 \$13 P4 P1 VSS 1bitCPU_Yamaoka
* cell instance $32 m90 *1 820,572.5
X$32 \$6 P14 \$13 VSS INV_X1
* cell instance $33 r0 *1 507.5,836.5
X$33 \$6 P1 P15 VSS INV_X1
.ENDS tr_1um_ichiken04

* cell INV_X1
* pin vdd
* pin A
* pin Y
* pin gnd
.SUBCKT INV_X1 vdd A Y gnd
* device instance $1 r0 *1 6.1,44.8 PMOS
XM$1 vdd A Y vdd PMOS L=1u W=10.2u AS=28.56p AD=28.56p PS=26u PD=26u
* device instance $2 r0 *1 6.1,6.8 NMOS
XM$2 gnd A Y gnd NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
.ENDS INV_X1

* cell inverter_RS_232_C
* pin vout
* pin vdd
* pin vin
* pin vss
.SUBCKT inverter_RS_232_C vout vdd vin vss
* device instance $1 r0 *1 6,2.3 PMOS
XM$1 vdd vin vout vdd PMOS L=1u W=8u AS=22.4p AD=22.4p PS=21.6u PD=21.6u
* device instance $2 r0 *1 6,-22.5 NMOS
XM$2 vss vin vout vss NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
.ENDS inverter_RS_232_C

* cell inverter_NanTarou
* pin vout
* pin vdd
* pin vin
* pin vss
.SUBCKT inverter_NanTarou vout vdd vin vss
* device instance $1 r0 *1 -30.7,45.6 PMOS
XM$1 vdd vin vout vdd PMOS L=1u W=7.6u AS=21.28p AD=21.28p PS=20.8u PD=20.8u
* device instance $2 r0 *1 -30.8,18.9 NMOS
XM$2 vss vin vout vss NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
.ENDS inverter_NanTarou

* cell inverter_EinosukeOkazaki
* pin vout
* pin Vdd
* pin vin
* pin Vss
.SUBCKT inverter_EinosukeOkazaki vout Vdd vin Vss
* device instance $1 r0 *1 8.8,-0.2 PMOS
XM$1 vout vin Vdd Vdd PMOS L=1u W=6.8u AS=19.04p AD=19.04p PS=19.2u PD=19.2u
* device instance $2 r0 *1 8.8,-27.2 NMOS
XM$2 vout vin Vss Vss NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
.ENDS inverter_EinosukeOkazaki

* cell 1bitCPU_Yamaoka
* pin 
* pin 
* pin 
* pin 
* pin 
* pin 
* pin 
* pin VSS
.SUBCKT 1bitCPU_Yamaoka \$2 \$3 \$9 \$10 \$13 \$14 \$16 VSS
* cell instance $1 r0 *1 258.5,0
X$1 \$10 \$13 \$5 \$7 \$2 VSS MUX2
* cell instance $2 r0 *1 88,0
X$2 \$14 \$5 \$3 \$7 \$16 \$2 VSS DFFR
* cell instance $3 r0 *1 0,0
X$3 \$14 \$4 \$3 \$I42 \$9 \$2 VSS DFFR
* cell instance $4 r0 *1 176,0
X$4 \$13 \$6 \$9 \$2 VSS XOR2
* cell instance $5 r0 *1 209,0
X$5 \$10 \$9 \$4 \$6 \$2 VSS MUX2
.ENDS 1bitCPU_Yamaoka

* cell OSS_FRAME
* pin P13
* pin P11
* pin P4
* pin P15
* pin P14
* pin P5
* pin VDD
* pin P2
* pin P3
* pin P7
* pin P1
* pin P6
* pin P9
* pin P12
* pin P10
* pin VSS
.SUBCKT OSS_FRAME P13 P11 P4 P15 P14 P5 VDD P2 P3 P7 P1 P6 P9 P12 P10 VSS
* cell instance $1 r90 *1 1040,200
X$1 P13 VDD VSS OSS_ESD_5V_ANA
* cell instance $2 r90 *1 1040,-600
X$2 P11 VDD VSS OSS_ESD_5V_ANA
* cell instance $3 m45 *1 -1040,200
X$3 P4 VDD VSS OSS_ESD_5V_ANA
* cell instance $4 r180 *1 600,1040
X$4 P15 VDD VSS OSS_ESD_5V_ANA
* cell instance $5 m135 *1 1040,600
X$5 P14 VDD VSS OSS_ESD_5V_ANA
* cell instance $6 r270 *1 -1040,-200
X$6 P5 VDD VSS OSS_ESD_5V_ANA
* cell instance $10 m45 *1 -1040,-600
X$10 P6 VDD VSS OSS_ESD_5V_ANA
* cell instance $11 m135 *1 1040,-200
X$11 P12 VDD VSS OSS_ESD_5V_ANA
* cell instance $12 m90 *1 600,-1040
X$12 P10 VDD VSS OSS_ESD_5V_ANA
* cell instance $14 m0 *1 -600,1040
X$14 P2 VDD VSS OSS_ESD_5V_ANA
* cell instance $15 r270 *1 -1040,600
X$15 P3 VDD VSS OSS_ESD_5V_ANA
* cell instance $16 r180 *1 -200,1040
X$16 P1 VDD VSS OSS_ESD_5V_ANA
* cell instance $17 m0 *1 200,1040
X$17 VDD VSS OSS_ESD_5V_VDD
* cell instance $18 r0 *1 -600,-1040
X$18 P7 VDD VSS OSS_ESD_5V_ANA
* cell instance $19 r0 *1 200,-1040
X$19 P9 VDD VSS OSS_ESD_5V_ANA
* cell instance $20 m90 *1 -200,-1040
X$20 VDD VSS OSS_ESD_5V_VSS
.ENDS OSS_FRAME

* cell MUX2
* pin S
* pin B
* pin Y
* pin A
* pin vdd
* pin gnd
.SUBCKT MUX2 S B Y A vdd gnd
* device instance $1 r0 *1 26.1,47.35 PMOS
XM$1 vdd \$5 Y vdd PMOS L=1u W=10.2u AS=21.93p AD=21.93p PS=23.9u PD=23.9u
* device instance $3 r0 *1 14.1,46.5 PMOS
XM$3 \$5 \$2 \$4 vdd PMOS L=1u W=6.8u AS=19.04p AD=10.2p PS=19.2u PD=9.8u
* device instance $4 r0 *1 18.1,46.5 PMOS
XM$4 \$4 B vdd vdd PMOS L=1u W=6.8u AS=10.2p AD=19.04p PS=9.8u PD=19.2u
* device instance $5 r0 *1 38.1,46.5 PMOS
XM$5 \$5 S \$8 vdd PMOS L=1u W=6.8u AS=19.04p AD=10.2p PS=19.2u PD=9.8u
* device instance $6 r0 *1 42.1,46.5 PMOS
XM$6 \$8 A vdd vdd PMOS L=1u W=6.8u AS=10.2p AD=19.04p PS=9.8u PD=19.2u
* device instance $7 r0 *1 6.1,46.5 PMOS
XM$7 \$2 S vdd vdd PMOS L=1u W=6.8u AS=19.04p AD=19.04p PS=19.2u PD=19.2u
* device instance $8 r0 *1 34.9,6.8 NMOS
XM$8 \$8 \$2 \$5 gnd NMOS L=1u W=6.8u AS=14.62p AD=10.2p PS=18.8u PD=12.8u
* device instance $10 r0 *1 42.9,6.8 NMOS
XM$10 \$8 A gnd gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
* device instance $11 r0 *1 14.1,6.8 NMOS
XM$11 \$4 S \$5 gnd NMOS L=1u W=6.8u AS=14.62p AD=10.2p PS=18.8u PD=12.8u
* device instance $13 r0 *1 22.1,6.8 NMOS
XM$13 \$4 B gnd gnd NMOS L=1u W=3.4u AS=5.1p AD=5.1p PS=6.4u PD=6.4u
* device instance $14 r0 *1 26.1,6.8 NMOS
XM$14 gnd \$5 Y gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
* device instance $15 r0 *1 6.1,6.8 NMOS
XM$15 \$2 S gnd gnd NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
.ENDS MUX2

* cell XOR2
* pin B
* pin Y
* pin A
* pin vdd
* pin gnd
.SUBCKT XOR2 B Y A vdd gnd
* device instance $1 r0 *1 18.1,44.8 PMOS
XM$1 Y \$2 \$9 vdd PMOS L=1u W=10.2u AS=28.56p AD=15.3p PS=26u PD=13.2u
* device instance $2 r0 *1 22.1,44.8 PMOS
XM$2 \$9 B vdd vdd PMOS L=1u W=10.2u AS=15.3p AD=15.3p PS=13.2u PD=13.2u
* device instance $3 r0 *1 26.1,44.8 PMOS
XM$3 vdd A \$9 vdd PMOS L=1u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $4 r0 *1 6.1,44.8 PMOS
XM$4 vdd A \$8 vdd PMOS L=1u W=10.2u AS=28.56p AD=15.3p PS=26u PD=13.2u
* device instance $5 r0 *1 10.1,44.8 PMOS
XM$5 \$8 B \$2 vdd PMOS L=1u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $6 r0 *1 18.1,6.8 NMOS
XM$6 Y \$2 gnd gnd NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $7 r0 *1 22.1,6.8 NMOS
XM$7 gnd B \$5 gnd NMOS L=1u W=3.4u AS=5.1p AD=5.1p PS=6.4u PD=6.4u
* device instance $8 r0 *1 26.1,6.8 NMOS
XM$8 \$5 A Y gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
* device instance $9 r0 *1 6.1,6.8 NMOS
XM$9 \$2 A gnd gnd NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $10 r0 *1 10.1,6.8 NMOS
XM$10 gnd B \$2 gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
.ENDS XOR2

* cell DFFR
* pin CK
* pin D
* pin RST
* pin QB
* pin Q
* pin vdd
* pin gnd
.SUBCKT DFFR CK D RST QB Q vdd gnd
* device instance $1 r0 *1 75.7,44.8 PMOS
XM$1 QB \$11 vdd vdd PMOS L=1u W=10.2u AS=28.56p AD=15.3p PS=26u PD=13.2u
* device instance $2 r0 *1 79.7,44.8 PMOS
XM$2 vdd QB Q vdd PMOS L=1u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $3 r0 *1 50.9,44.8 PMOS
XM$3 vdd \$8 \$22 vdd PMOS L=1u W=10.2u AS=28.56p AD=7.14p PS=26u PD=11.6u
* device instance $4 r0 *1 53.3,44.8 PMOS
XM$4 \$22 \$5 \$10 vdd PMOS L=1u W=10.2u AS=7.14p AD=15.3p PS=11.6u PD=13.2u
* device instance $5 r0 *1 57.3,44.8 PMOS
XM$5 \$10 \$4 \$23 vdd PMOS L=1u W=10.2u AS=15.3p AD=7.14p PS=13.2u PD=11.6u
* device instance $6 r0 *1 59.7,44.8 PMOS
XM$6 \$23 \$11 vdd vdd PMOS L=1u W=10.2u AS=7.14p AD=15.3p PS=11.6u PD=13.2u
* device instance $7 r0 *1 63.7,44.8 PMOS
XM$7 vdd \$10 \$24 vdd PMOS L=1u W=10.2u AS=15.3p AD=15.3p PS=13.2u PD=13.2u
* device instance $8 r0 *1 67.7,44.8 PMOS
XM$8 \$24 RST \$11 vdd PMOS L=1u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $9 r0 *1 6.1,44.8 PMOS
XM$9 \$2 CK vdd vdd PMOS L=1u W=10.2u AS=28.56p AD=15.3p PS=26u PD=13.2u
* device instance $10 r0 *1 10.1,44.8 PMOS
XM$10 vdd \$2 \$4 vdd PMOS L=1u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $11 r0 *1 18.1,44.8 PMOS
XM$11 \$5 \$4 vdd vdd PMOS L=1u W=10.2u AS=28.56p AD=15.3p PS=26u PD=13.2u
* device instance $12 r0 *1 22.1,44.8 PMOS
XM$12 vdd D \$19 vdd PMOS L=1u W=10.2u AS=15.3p AD=7.14p PS=13.2u PD=11.6u
* device instance $13 r0 *1 24.5,44.8 PMOS
XM$13 \$19 \$4 \$7 vdd PMOS L=1u W=10.2u AS=7.14p AD=28.56p PS=11.6u PD=26u
* device instance $14 r0 *1 32.5,44.8 PMOS
XM$14 \$7 \$5 \$20 vdd PMOS L=1u W=10.2u AS=28.56p AD=7.14p PS=26u PD=11.6u
* device instance $15 r0 *1 34.9,44.8 PMOS
XM$15 \$20 \$8 vdd vdd PMOS L=1u W=10.2u AS=7.14p AD=15.3p PS=11.6u PD=13.2u
* device instance $16 r0 *1 38.9,44.8 PMOS
XM$16 vdd \$7 \$21 vdd PMOS L=1u W=10.2u AS=15.3p AD=15.3p PS=13.2u PD=13.2u
* device instance $17 r0 *1 42.9,44.8 PMOS
XM$17 \$21 RST \$8 vdd PMOS L=1u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $18 r0 *1 75.7,6.8 NMOS
XM$18 QB \$11 gnd gnd NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $19 r0 *1 79.7,6.8 NMOS
XM$19 gnd QB Q gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
* device instance $20 r0 *1 50.9,6.8 NMOS
XM$20 gnd \$8 \$16 gnd NMOS L=1u W=3.4u AS=9.52p AD=2.38p PS=12.4u PD=4.8u
* device instance $21 r0 *1 53.3,6.8 NMOS
XM$21 \$16 \$4 \$10 gnd NMOS L=1u W=3.4u AS=2.38p AD=5.1p PS=4.8u PD=6.4u
* device instance $22 r0 *1 57.3,6.8 NMOS
XM$22 \$10 \$5 \$17 gnd NMOS L=1u W=3.4u AS=5.1p AD=2.38p PS=6.4u PD=4.8u
* device instance $23 r0 *1 59.7,6.8 NMOS
XM$23 \$17 \$11 gnd gnd NMOS L=1u W=3.4u AS=2.38p AD=5.1p PS=4.8u PD=6.4u
* device instance $24 r0 *1 63.7,6.8 NMOS
XM$24 gnd \$10 \$11 gnd NMOS L=1u W=3.4u AS=5.1p AD=5.1p PS=6.4u PD=6.4u
* device instance $25 r0 *1 67.7,6.8 NMOS
XM$25 \$11 RST gnd gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
* device instance $26 r0 *1 6.1,6.8 NMOS
XM$26 \$2 CK gnd gnd NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $27 r0 *1 10.1,6.8 NMOS
XM$27 gnd \$2 \$4 gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
* device instance $28 r0 *1 18.1,6.8 NMOS
XM$28 \$5 \$4 gnd gnd NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $29 r0 *1 22.1,6.8 NMOS
XM$29 gnd D \$14 gnd NMOS L=1u W=3.4u AS=5.1p AD=2.38p PS=6.4u PD=4.8u
* device instance $30 r0 *1 24.5,6.8 NMOS
XM$30 \$14 \$5 \$7 gnd NMOS L=1u W=3.4u AS=2.38p AD=9.52p PS=4.8u PD=12.4u
* device instance $31 r0 *1 32.5,6.8 NMOS
XM$31 \$7 \$4 \$15 gnd NMOS L=1u W=3.4u AS=9.52p AD=2.38p PS=12.4u PD=4.8u
* device instance $32 r0 *1 34.9,6.8 NMOS
XM$32 \$15 \$8 gnd gnd NMOS L=1u W=3.4u AS=2.38p AD=5.1p PS=4.8u PD=6.4u
* device instance $33 r0 *1 38.9,6.8 NMOS
XM$33 gnd \$7 \$8 gnd NMOS L=1u W=3.4u AS=5.1p AD=5.1p PS=6.4u PD=6.4u
* device instance $34 r0 *1 42.9,6.8 NMOS
XM$34 \$8 RST gnd gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
.ENDS DFFR

* cell OSS_ESD_5V_VDD
* pin PAD,VDD
* pin VSS
.SUBCKT OSS_ESD_5V_VDD PAD|VDD VSS
* cell instance $1 r90 *1 -130,0
X$1 PAD|VDD PAD|VDD OSS_PCH_ESD
* cell instance $3 r90 *1 130,0
X$3 PAD|VDD VSS OSS_NCH_ESD
.ENDS OSS_ESD_5V_VDD

* cell OSS_ESD_5V_VSS
* pin VDD
* pin PAD,VSS
.SUBCKT OSS_ESD_5V_VSS VDD PAD|VSS
* cell instance $1 r90 *1 -130,0
X$1 PAD|VSS VDD OSS_PCH_ESD
* cell instance $2 r90 *1 130,0
X$2 PAD|VSS PAD|VSS OSS_NCH_ESD
.ENDS OSS_ESD_5V_VSS

* cell OSS_ESD_5V_ANA
* pin PAD
* pin VDD
* pin VSS
.SUBCKT OSS_ESD_5V_ANA PAD VDD VSS
* cell instance $2 r90 *1 -130,0
X$2 PAD VDD OSS_PCH_ESD
* cell instance $3 r90 *1 130,0
X$3 PAD VSS OSS_NCH_ESD
.ENDS OSS_ESD_5V_ANA

* cell OSS_PCH_ESD
* pin PAD
* pin VDD
.SUBCKT OSS_PCH_ESD PAD VDD
* device instance $1 r0 *1 -65.5,0 PMOS
XM$1 PAD VDD VDD VDD PMOS L=2u W=500u AS=3523.04p AD=3523.04p PS=689.36u
+ PD=689.36u
.ENDS OSS_PCH_ESD

* cell OSS_NCH_ESD
* pin PAD
* pin VSS
.SUBCKT OSS_NCH_ESD PAD VSS
* device instance $1 r0 *1 -65.5,0 NMOSE
XM$1 PAD VSS VSS VSS NMOSE L=2u W=500u AS=3523.04p AD=3523.04p PS=689.36u
+ PD=689.36u
.ENDS OSS_NCH_ESD
